US04945098
1-Hexadecanoyloxy-3-(8-bromooctanoyloxy)-2-methylenepropane
Following the procedure described in Preparation 9, but replacing 3-octadecylaminocarbonyloxy-2-methylenepropan-1-ol with 3-hexadecanoyloxy-2-methylenepropan-1-ol (from Preparation 2), and replacing 6-bromohexanoic acid with 8-bromooctanoic acid, the desired product was obtained.

reactant | 3-hexadecanoyloxy-2-methylenepropan-1-ol | C(CCCCCCCCCCCCCCC)(=O)OCC(CO)=C | C20H38O3
reactant | 8-bromooctanoic acid | BrCCCCCCCC(=O)O | C8H15BrO2
product | 1-Hexadecanoyloxy-3-(8-bromooctanoyloxy)-2-methylenepropane | C(CCCCCCCCCCCCCCC)(=O)OCC(COC(CCCCCCCBr)=O)=C | C28H51BrO4
